US07396847B2
(5S)-5-(Aminomethyl)-3-(4-iodophenyl)-1,3-oxazolidin-2-one
(5R)-5-(Azidomethyl)-3-(4-Iodophenyl)-1,3-oxazolidin-2-one (8.0 g, 23.2 mmol) was dissolved in acetonitrile (160 ml) and water (16 ml). Triphenylphosphine (7.3 g, 27.9 mmol) was added and the mixture stirred at room temperature overnight. The volatiles were removed by concentration in vacuo, and the resulting residue partitioned between water (200 ml) and dichloromethane (200 ml). The aqueous layer was extracted with dichloromethane (2×200 ml) and dried over sodium sulfate. The crude material was purified by flash chromatography on silica gel with 0-10% methanol in dichloromethane as the eluent giving the desired product (6.0 g).

reactant | (5R)-5-(Azidomethyl)-3-(4-Iodophenyl)-1,3-oxazolidin-2-one | 23.2 mmol, 8.0 g | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)I | C10H9IN4O2
reactant | Triphenylphosphine | 27.9 mmol, 7.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 160 ml | C(C)#N | C2H3N
solvent | water | 16 ml | O | H2O
product | (5S)-5-(Aminomethyl)-3-(4-iodophenyl)-1,3-oxazolidin-2-one | 6.0 g | NC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)I | C10H11IN2O2
